US07276286B2
1-Amino-1-deoxy-D-sorbitol (2.80 g, 15.4 mmol) was added to a solution of di-tert-butyl dicarbonate (3.40 g, 15.5 mmol) in DMF (30 mL) and the resulting mixture was stirred at 0° C. for 3 h, followed by stirring at ambient temperature for 16 h. The resulting solution was concentrated in vacuo to afford (CH3)3COC(O)NHCH2(CH(OH))4CH2OH as a colorless oil (4.50 g, 99%). This compound was used without further purification.

reactant | 1-Amino-1-deoxy-D-sorbitol | 15.4 mmol, 2.80 g | NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H15NO5
reactant | di-tert-butyl dicarbonate | 15.5 mmol, 3.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (2,3,4,5,6,-Pentahydroxyhexyl)carbamic acid tert-butyl ester | 4.50 g, 99% | C(C)(C)(C)OC(NCC(C(C(C(CO)O)O)O)O)=O | C11H23NO7
